US04804668
2,6-Dimethyl aniline hydrochloride (230 mg) was added to a stirred suspension of 4-methyl-5-(4-pyridinyl)-thiazole-2-carbonylchloride hydrochloride (230 mg) in dry toluene (4 ml) at room temperature, and triethylamine (1.8 ml) was added to the mixture, and was stirred at room temperature for overnight. The mixture was diluted with chloroform, washed with water, dried over magnesium sulfate, and evaporated to dryness. The residue was recrystallized from iso-propanol to give 2',6'-dimethyl-4-methyl-5-(4-pyridinyl)-thiazole-2-carboxanilide (180 mg, yield 31%) as colorless plates.

reactant | 2,6-Dimethyl aniline hydrochloride | 230 mg | Cl.CC1=C(N)C(=CC=C1)C
reactant | 4-methyl-5-(4-pyridinyl)-thiazole-2-carbonylchloride hydrochloride | 230 mg | Cl.CC=1N=C(SC1C1=CC=NC=C1)C(=O)Cl
reactant | triethylamine | 1.8 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2',6'-dimethyl-4-methyl-5-(4-pyridinyl)-thiazole-2-carboxanilide | 180 mg, yield 31% | CC1=C(NC(=O)C=2SC(=C(N2)C)C2=CC=NC=C2)C(=CC=C1)C | C18H17N3OS
